US07384966B2
4-Fluoro-2-(3,4-dimethoxyphenyl)benzothiazole (2).
A solution of N-(2-fluorophenyl)-3,4-dimethoxythiobenzamide (0.850 g, 2.92 mmol) and sodium hydroxide (0.93 g, 23.3 mmol) in water (10 mL) and ethanol (0.5 mL) was added dropwise to a solution of potassium ferricyanide (3.84 g, 11.7 mmol) in water (5 mL) at 95° C. The resulting solution was stirred at 95° C. for a further 2 h and then cooled in an ice bath. The precipitate was collected by vacuum filtration, washed with water and dissolved in ethyl acetate (10 mL) and insoluble material was removed by filtration. The filtrate was concentrated in vacuo and the crude product purified by column chromatography (dichloromethane) to give the required product as a pale yellow powder (0.46 g, 55% yield), mp 129° C.; 1H NMR (DMSO-d6) δ 7.95 (1H, m, ArH), 7.65 (2H, m, ArH), 7.42 (2H, m, ArH), 7.15 (1H, m, ArH), 3.90 (3H, s, OMe), 3.88 (3H, s, OMe); m/z (CI) 290 (M++1); Anal. (C15H12FNO2S) C, H, N. C: found 62.36%, calc. 62.27%; H: found 4.19%, calc.4.18%; N: found 4.93%, calc. 4.84%.

reactant | N-(2-fluorophenyl)-3,4-dimethoxythiobenzamide | 2.92 mmol, 0.850 g | FC1=C(C=CC=C1)NC(C1=CC(=C(C=C1)OC)OC)=S | C15H14FNO2S
reactant | sodium hydroxide | 23.3 mmol, 0.93 g | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
catalyst | potassium ferricyanide | 11.7 mmol, 3.84 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 4-Fluoro-2-(3,4-dimethoxyphenyl)benzothiazole | 0.46 g, 55% yield | FC1=CC=CC2=C1N=C(S2)C2=CC(=C(C=C2)OC)OC | C15H12FNO2S
